US08471005B2
Into a Round bottom flask, [A] 5,6-Dibromo-7-(2-methoxy-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.460 g, 0.00107 mol) and Methylene chloride (2 mL, 0.03 mol) were added. m-CPBA 70-75% (70:30, m-Chloroperbenzoic acid:3-Chlorobenzoic acid, 0.291 g, 0.00118 mol) was added portion wise over 20 minutes. The reaction was stirred at room temperature for one hour. The reaction was partitioned with DCM (200 mL) and saturated NaHCO3 (200 mL). The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give a yellow solid. The solid was washed with hexane to give 5,6-Dibromo-2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine as a yellow solid (0.465 g, 97%). NMR 1H (DSMO-d6)-9.27 (s, 1H), 7.50-7.62 (m, 2H), 7.40-7.48 (m, 2H), 3.80 (s, 3H), 2.90 (s, 3H)

reactant | 5,6-Dibromo-7-(2-methoxy-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.00107 mol, 0.460 g | BrC=1C(=C(N2N=C(N=CC21)SC)C2=C(C=CC=C2)OC)Br | C14H11Br2N3OS
reactant | Methylene chloride | 0.03 mol, 2 mL | C(Cl)Cl | CH2Cl2
reactant | m-CPBA | 0.00118 mol, 0.291 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 5,6-Dibromo-2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.465 g, 97% | BrC=1C(=C(N2N=C(N=CC21)S(=O)C)C2=C(C=CC=C2)OC)Br | C14H11Br2N3O2S
